US08809376B2
{(S)-6-[(R)-5-Cyano-4-(2-fluoro-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and 2-fluoro-benzyl bromide following a procedure analogous to that described for Intermediate 7. LC (method 6): tR=1.19 min; Mass spectrum (ESI+): m/z=458 [M+H]+.

reactant | {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)Br)=O | C21H18BrNO4
reactant | 2-fluoro-benzyl bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
product | {(S)-6-[(R)-5-Cyano-4-(2-fluoro-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)CC2=C(C=CC=C2)F)=O | C28H24FNO4
